US08808703B2
Step 2: (S)-tert-butyl 2-(2-(tert-butoxycarbonylamino)butoxy)acetate
To a solution of (S)-tert-butyl 1-hydroxybutan-2-ylcarbamate (1 eq, from the previous step) in THF (0.23 M) at 0° C. was added portionwise 60% wt NaH (2 eq). The reaction was stirred at 0° C. for 30 minutes, and then a solution of tert-butyl 2-bromoacetate (1 eq) in THF (0.12 M) was added dropwise. The reaction was warmed to room temperature and stirred for 1 hour. The reaction was quenched slowly with saturated aqueous NH4C1 solution and diluted with ether. The organic layer was washed with water, brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient of 0-40% ethyl acetate in hexanes to give the product as an oil.

reactant | (S)-tert-butyl 1-hydroxybutan-2-ylcarbamate | OC[C@H](CC)NC(OC(C)(C)C)=O | C9H19NO3
reactant | NaH | 2 eq | [H-].[Na+]
reactant | tert-butyl 2-bromoacetate | 1 eq | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 0.23 M | C1CCOC1 | C4H8O
solvent | THF | 0.12 M | C1CCOC1 | C4H8O
product | (S)-tert-butyl 2-(2-(tert-butoxycarbonylamino)butoxy)acetate | C(C)(C)(C)OC(=O)N[C@H](COCC(=O)OC(C)(C)C)CC | C15H29NO5
